Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / Fenofibrate / Crestor
 
Attending: ___.
 
Chief Complaint:
Right groin pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ s/p mechanical fall down ___ steps today while at her
primary care doctor's office being evaluated for a UTI. Denies
head strike or LOC. Presented to BI ED with complaints of right
groin pain.

 
Past Medical History:
CONGENITAL ADRENAL HYPERPLASIA                                  
HYPERTENSION                                                    
HYPERLIPIDEMIA                                                  
DIABETES TYPE II                                                
ASTHMA                                                          
TOBACCO ABUSE                                                   
CONGENITAL NYSTAGMUS                                            
PSORIASIS                                                       
APHAKIC BULLOUS KERATOPATHY                                     
MYOPIC RETINAL DEGENERATION ___                                  
LEGALLY BLIND                                                   
GLAUCOMA
 
Social History:
___
Family History:
NC
 
Physical Exam:
Gen: NAD, appears comfortable
Bilateral lower extremities: compartments soft/compressible; no 
pain with passive or active ROM of hips or knees, sensation 
intact, warm and well perfused
 
Pertinent Results:
___ 02:32PM BLOOD WBC-14.2*# RBC-5.02 Hgb-15.1 Hct-45.9 
MCV-92 MCH-30.1 MCHC-33.0 RDW-12.6 Plt ___
___ 02:32PM BLOOD Neuts-80.7* Lymphs-13.9* Monos-3.6 
Eos-1.1 Baso-0.7
___ 02:32PM BLOOD Glucose-121* UreaN-18 Creat-1.0 Na-141 
K-3.9 Cl-109* HCO3-20* AnGap-16
___ 07:52PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 07:52PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG
___ 07:52PM URINE RBC-11* WBC->182* Bacteri-MOD Yeast-NONE 
Epi-1
URINE CULTURE-FINAL {BETA STREPTOCOCCUS GROUP B}
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have an LC1 pelvic fracture on the right and was admitted to 
the orthopedic surgery service.  The patient was treated 
non-operatively and made weight bearing as tolerated. The 
patients home medications were continued throughout this 
hospitalization.  The patient worked with ___ who determined that 
discharge to rehab was appropriate. The ___ hospital 
course was otherwise unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, and the patient was 
voiding/moving bowels spontaneously. The patient is weight 
bearing as tolerated in the bilateral lower extremities, and 
will be discharged on Lovenox for DVT prophylaxis.  The patient 
will follow up in two weeks per routine. A thorough discussion 
was had with the patient regarding the diagnosis and expected 
post-discharge course, and all questions were answered prior to 
discharge.

 
Medications on Admission:
ACETAZOLAMIDE [DIAMOX SEQUELS] - Dosage uncertain -  (Prescribed
by Other Provider)
ALBUTEROL SULFATE - albuterol sulfate HFA 90 mcg/actuation
aerosol inhaler. 2 puffs by mouth every 4 hours
AMLODIPINE - amlodipine 10 mg tablet. TAKE 1 TABLET BY MOUTH
EVERY DAY FOR BLOOD PRESSURE
BRIMONIDINE [ALPHAGAN P] - Dosage uncertain -  (Prescribed by
Other Provider)
CLOBETASOL - clobetasol 0.05 % topical solution. apply to scalp
daily after shampooing for 2 to 4 weeks, then twice weekly as
needed
CLONIDINE - clonidine 0.1 mg tablet. TAKE 1 TABLET(S) BY MOUTH
TWICE DAILY FOR BLOOD PRESSURE
DORZOLAMIDE-TIMOLOL [COSOPT] - Dosage uncertain -  (Prescribed 
by
Other Provider)
FLUOCINONIDE - fluocinonide 0.05 % topical cream. APPLY TO
AFFECTED AREAS DAILY FOR 2 WEEKS AT A TIME AS NEEDED. AVOID
FACE/GENITALS ___ WEEKS OFF)
FLUTICASONE [FLOVENT HFA] - Flovent HFA 110 mcg/actuation 
aerosol
inhaler. 2 puffs by mouth twice daily rinse mouth out after - 
(Not Taking as Prescribed)
LISINOPRIL - lisinopril 40 mg tablet. TAKE 1 TABLET BY MOUTH
DAILY
METFORMIN - metformin 500 mg tablet. TAKE 2 TABLETS BY MOUTH
TWICE A DAY
PRAVASTATIN - pravastatin 80 mg tablet. 1 tablet(s) by mouth
daily for cholesterol
TRAZODONE - trazodone 50 mg tablet. 1 tablet(s) by mouth at
bedtime as needed for insomnia

 
Discharge Medications:
1. AcetaZOLamide 500 mg PO Q12H 
2. Amlodipine 10 mg PO DAILY 
3. Brimonidine Tartrate 0.15% Ophth. 1 DROP BOTH EYES BID 
4. CloniDINE 0.1 mg PO BID 
5. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP RIGHT EYE DAILY 
6. Lisinopril 40 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. Pravastatin 80 mg PO DAILY 
9. Acetaminophen 650 mg PO Q6H 
10. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB/wheezing 
11. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
12. Docusate Sodium 100 mg PO BID 
13. Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 40 mg/0.4 mL 0.4 mL subQ once a day Disp #*14 
Syringe Refills:*0
14. Fluticasone Propionate 110mcg 2 PUFF IH BID 
15. Milk of Magnesia 30 ml PO BID:PRN Constipation 
16. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*60 Tablet Refills:*0
17. Senna 8.6 mg PO BID 
18. TraZODone 50 mg PO HS:PRN insomnia 
19. sodium chloride 5 % ophthalmic BID 
20. Ampicillin 500 mg PO Q6H Duration: 3 Days 
RX *ampicillin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*12 Capsule Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
LC1 pelvis fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks

WOUND CARE:
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.
- Splint must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get splint wet

ACTIVITY AND WEIGHT BEARING:
- Weight bearing as tolerated in bilateral lower extremities
- Range of motion as tolerated in bilateral lower extremities
- Activity as tolerated

Physical Therapy:
Activity:   Activity:  Activity as tolerated
 Pneumatic boots
 Right lower extremity:  Full weight bearing
 Left lower extremity:  Full weight bearing
Encourage turn, cough and deep breathe q2h when awake

 
Followup Instructions:
___